US07250427B2
2-(4-{2-[1-(4-Methoxy-benzyl)-piperidin-4-yl]-ethoxy}-phenyl)-1H-benzoimidazole-5-carboxylic acid amide
This compound was prepared using the methods outlined in Example 27, substituting p-anisaldehyde for p-tolualdehyde and 2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide for 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide. HPLC (Method C): Rt=4.49. MS (ESI+): mass calcd. for C29H32N4O3, 484.25; m/z found, 485.4 [M+H]+. 1H NMR (500 MHz, CD3OD): 8.17 (s, 1H), 8.00 (d, J=8.8 Hz, 2H), 7.93 (d, J=8.5 Hz, 1H), 7.69 (d, J=8.5 Hz, 1H), 7.31 (d, J=8.7 Hz, 2H), 7.13 (d, J=8.8 Hz, 2H), 6.92 (d, J=8.7 Hz, 2H), 4.13 (s, 2H), 4.13-4.11 (m, 2H), 3.73 (s, 3H), 3.41-3.38 (m, 2H), 2.94-2.85 (m, 2H), 1.99-1.96 (m, 2H), 1.86-1.79 (m, 1H), 1.79-1.71 (m, 2H), 1.47-1.36 (m, 2H).

reactant | p-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 2-[4-(2-piperidin-4-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1CCC(CC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
product | 2-(4-{2-[1-(4-Methoxy-benzyl)-piperidin-4-yl]-ethoxy}-phenyl)-1H-benzoimidazole-5-carboxylic acid amide | COC1=CC=C(CN2CCC(CC2)CCOC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C(=O)N)C=C1 | C29H32N4O3
